US04367234
Ethyl 1-hydroxy-1-(2-ethoxyphenyl)methanecarboximidate hydrochloride (20 g.) was reacted with phosgene according to the procedure of Example 3. To isolate the product, the reaction mixture was evaporated to dryness and the solid residue partitioned between 500 ml. of water and 500 ml. of chloroform. The aqueous phase was washed with two fresh portions of chloroform. The combined chloroform phase and washes was dried over anhydrous magnesium sulfate, filtered, evaporated to solids and recrystallized from toluene to yield 5-(2-ethoxyphenyl)oxazolidine-2,4-dione (11.9 g., 70%; m.p. 165°-167° C., m/e 221).

reactant | Ethyl 1-hydroxy-1-(2-ethoxyphenyl)methanecarboximidate hydrochloride | 20 g | Cl.OC(C(OCC)=N)C1=C(C=CC=C1)OCC
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 5-(2-ethoxyphenyl)oxazolidine-2,4-dione | 11.9 g, 70% | C(C)OC1=C(C=CC=C1)C1C(NC(O1)=O)=O | C11H11NO4
